Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan
 
Attending: ___.
 
Chief Complaint:
gastroparesis
 
Major Surgical or Invasive Procedure:
G-tube insertion

 
History of Present Illness:
___ with history of eating disorder and laxative abuse with
gastroparesis and inability to tolerate oral intake for the past
year; this has been associated with reflux, unintentional weight
loss as well as nutritional deficiencies. She has had dobhoff
tubes placed in the past but has encountered problems with
replacement/adjustment. She presented today and underwent an
___ G tube placement and dobhoff placement, with good
placement of the G tube; however, the dobhoff was noted to be
coiled in the stomach without successful advancement into the
jejunum. She was admitted overnight for observation and 
hydration
in anticipation for re-attempt at adjusting her dobhoff the next
day.

On interview she noted pain at the G tube site, with some 
nausea,
both relieved with IV pain and anti-emetic. She otherwise denied
any fevers or chills or increased abdominal distension.

 
Past Medical History:
h/o Eating disorder/laxative abuse  
Chronic constipation  
Bipolar disorder  
GERD  
Gastroparesis  

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease. There is no 
family history of celiac disease. 
 
Physical Exam:
pre admit exam:
Vitals:97.8 80 105/66 20 97%RA
GEN: A&O, NAD. Appears uncomfortable.
HEENT: No scleral icterus, mucus membranes slightly dry.
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, appropriately tender. no rebound or
guarding, normoactive bowel sounds, no palpable masses. G tube
dressing clean, dry, intact
DRE: deferred
Ext: No ___ edema, ___ warm and well perfused

discharge exam:
AVSS
nad
RRR no M/R/G
abd s/nd, mild diffuse tenderness, g-tube in place without 
surrounding erythema
 
Brief Hospital Course:
Ms. ___ was admitted for g-tube placement with jejunal 
feeding tube by ___ for her longstanding gastroparesis and 
difficulties with emesis. The g-tube procedure was performed 
without complication but the jejunal feeding tube could not be 
advanced. The following day attempts were made to advance the 
jejunal feeding tube into the correct position under 
flouroscopy. These attempts failed. A PICC line was then placed 
for nutrition and she was started on TPN. The gtube was clamped 
and occasioanlly vented for fullness or discomfort. She remained 
afebrile and hemodynamically stable. She was voiding without 
difficulty. She will be discharged on TPN with plans to 
re-attempt jejunal feeding tube placement in the future. 
 
Medications on Admission:
1. Adderall 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for anxiety.  
3. domperidone (bulk)  Miscellaneous
4. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO QAM (once a day (in the morning)).  
5. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 
PO QHS (once a day (at bedtime)).  
6. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO QPM (once a day (in the evening)).  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
8. Zofran 8 mg Tablet Sig: One (1) Tablet PO three times a day 
as needed for nausea.  
9. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
10. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
11. Miralax 17 gram Powder in Packet Sig: One (1) packet PO once 
a day.  
12. thiamine HCl  Oral

 
Discharge Medications:
1. Adderall 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for anxiety.  
3. domperidone (bulk)  Miscellaneous
4. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO QAM (once a day (in the morning)).  
5. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 
PO QHS (once a day (at bedtime)).  
6. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO QPM (once a day (in the evening)).  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
8. Zofran 8 mg Tablet Sig: One (1) Tablet PO three times a day 
as needed for nausea.  
9. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
10. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
11. Miralax 17 gram Powder in Packet Sig: One (1) packet PO once 
a day.  
12. thiamine HCl  Oral
13. TPN
14. glucose test strips  Sig: Two (2)   during TPN transfusion.
Disp:*30 * Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ___ surgery service following your 
G-tube insertion.  Unfortunately, our radiologists were not able 
to advance your NJ tube to the point where we could use it to 
feed you.  Because of this we had a PICC line inserted and 
started you on TPN.  You will need to continue your TPN until 
the interventional radiologists can advance your G tube at the 
appointment below. please test your blood sugar twice during TPN 
infusion as directed by the dietician and record the values.

General Discharge Instructions:
Please resume all regular home medications, unless specifically
advised not to take a particular medication.  Please take any 
new
medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may
not drive or operate heavy machinery while taking narcotic 
analgesic
medications.  You may also take acetaminophen (Tylenol) as 
directed,
but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and
drink adequate amounts of fluids.  Avoid strenuous physical 
activity
and refrain from heavy lifting greater than 10 lbs., until you
follow-up with your surgeon, who will instruct you further 
regarding
activity restrictions.  Please also follow-up with your primary 
care
physician.
 
Followup Instructions:
___